US05190959
Into 35 ml of methyl isobutyl ketone were dissolved 2.92 g of cyclopentyl-phenylmethyl chloride, 2.80 g of 4-hydroxy-1-[3-(2-nitrophenoxy)propyl]piperidine and 1.94 g of N,N-diisopropylethylamine, and the resultant solution was heated under reflux with stirring for 72 hours. After cooling, the reaction solution was washed with water, and the solvent was removed under reduced pressure. The residue was eluted with ethyl acetate-ethanol-dichloromethane (1:1:1) by silica gel column chromatography to give 0.88 g of oily 4-(cyclopentyl-phenylmethoxy)-1-[3-(2-nitrophenoxy)propyl]piperidine.

reactant | cyclopentyl-phenylmethyl chloride | 2.92 g | C1(CCCC1)C(C1=CC=CC=C1)Cl | C12H15Cl
reactant | 4-hydroxy-1-[3-(2-nitrophenoxy)propyl]piperidine | 2.80 g | OC1CCN(CC1)CCCOC1=C(C=CC=C1)[N+](=O)[O-] | C14H20N2O4
reactant | N,N-diisopropylethylamine | 1.94 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methyl isobutyl ketone | 35 ml | C(C(C)C)C(=O)C | C6H12O
product | 4-(cyclopentyl-phenylmethoxy)-1-[3-(2-nitrophenoxy)propyl]piperidine | 0.88 g | C1(CCCC1)C(OC1CCN(CC1)CCCOC1=C(C=CC=C1)[N+](=O)[O-])C1=CC=CC=C1 | C26H34N2O4
